US07723367B2
2-Thiazol-2-yl-nicotinonitrile
Prepared in 39% yield from 2-chloro-3-cyanopyridine and 2-(tributylstannyl)thiazole according to the procedure described for Example 164A. MS (ESI+) m/z 187.9 (M+H)+; 1H NMR (CDCl3) δ 7.44 (dd, J=7.8, 4.7 Hz, 1H), 7.57 (d, J=3.0 Hz, 1H), 8.10-8.14 (m, 2H), 8.80 (d, J=3.4 Hz, 1H).

reactant | 2-chloro-3-cyanopyridine | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 2-(tributylstannyl)thiazole | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
product | 2-Thiazol-2-yl-nicotinonitrile | 39% yield | S1C(=NC=C1)C1=C(C#N)C=CC=N1 | C9H5N3S
